* C:\Users\matti\Desktop\MAE\mxrPhase90\Face90\SPICE\SPICE files\phase90.asc
V1 Vdd 0 9
V2 0 Vee 9
XU1a N013 N001 Vdd Vee N001 TL061
C5 N013 N012 0.01µ
R3 N012 N011 10k
R14 N013 Vref 470k
V3 Vref 0 5.1
C1 N014 N001 47n
R1 N002 N001 10k
XU2a N014 N002 Vdd Vee N003 TL061
R6 N014 Vref 24k
J§Q2 N014 Vbias Vref 2N5952
R5 N003 N002 10k
C3 N015 N003 47n
R11 N004 N003 10k
XU2d N015 N004 Vdd Vee N005 TL061
R25 N015 Vref 24k
J§Q3 N015 Vbias Vref 2N5952
R10 N005 N004 10K
C6 N016 N005 47n
R12 N006 N005 10k
XU2c N016 N006 Vdd Vee N007 TL061
R26 N016 Vref 24k
J§Q4 N016 Vbias Vref 2N5952
R13 N007 N006 10k
C9 N017 N007 47n
R17 N008 N007 10k
XU2b N017 N008 Vdd Vee N009 TL061
R23 N017 Vref 24k
J§Q5 N017 Vbias Vref 2N5952
R18 N009 N008 10k
R8 N010 N009 150k
R16 N010 N001 150k
R7 N018 N010 150k
Q1 N018 N010 Vref 0 2N4125
C2 N019 N018 47n
R4 N018 0 56k
R2 N019 0 150k
XU1 N023 N022 NC_01 NC_02 N021 TL061
C7 N021 N022 0.01
R21 N021 N023 470k
R24 N022 N020 150k
R19 N023 Vref 150k
R22 Vbias N020 3.9Meg
C10 N020 0 15µ
R36 N021 N020 470k
V5 N011 0 AC 1
V4 Vbias 0 3
.model NPN NPN
.model PNP PNP
.lib C:\Users\matti\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NJF NJF
.model PJF PJF
.lib C:\Users\matti\AppData\Local\LTspice\lib\cmp\standard.jft
.include TL061.txt
.ac dec 100 1 20k
.backanno
.end
